US05360807
A mixture of 2.44 parts of 6-methyl-2-pyridinemethanamine, 3.2 parts of 2-chloro-3nitropyridine, 1.7 parts of sodium hydrogen carbonate and 120 parts of ethanol was stirred for 3 hours at reflux temperature. The reaction mixture was filtered while hot over diatomaceous earth. After cooling, the precipitate which formed in the tiltrate was filtered off and dried, yielding 2.5 parts (51%) of 6-methyl-N-(3-nitro-2-pyridinyl)-2pyridinemethanamine; mp. 131.7° C. (interm. 5).

reactant | 6-methyl-2-pyridinemethanamine | CC1=CC=CC(=N1)CN | C7H10N2
reactant | 2-chloro-3nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-methyl-N-(3-nitro-2-pyridinyl)-2pyridinemethanamine | 51% | CC1=CC=CC(=N1)CNC1=NC=CC=C1[N+](=O)[O-] | C12H12N4O2
